US06573293B2
2,4-Dimethyl-5-(2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-dimethylaminoethyl)-amide
1,3-Dihydro-indol-2-one was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-dimethylamino-ethyl)amide to give the title compound.

reactant | 1,3-Dihydro-indol-2-one | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-dimethylamino-ethyl)amide | CN(CCNC(=O)C1=C(NC(=C1C)C=O)C)C | C12H19N3O2
product | 2,4-Dimethyl-5-(2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-dimethylaminoethyl)-amide | CN(CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=CC=C12)=O)C)C | C20H24N4O2
